US08242125B2
60-A. tert-Butyl 4-(1-((4-nitrophenoxy)carbonyl)-1H-indol-5-yloxy)-5,6-dihydropyrido[3,4-d]pyrimidine-7 (8H)-carboxylate
To a solution of tert-butyl 4-(1H-indol-5-yloxy)-5,6-dihydropyrido[3,4-d]pyrimidine-7 (8H)-carboxylate, Example 31-C, (1 g, 2.73 mmol) in 20 mL of THF, sodium hydride (0.164 g, 4.09 mmol, 60% in mineral oil) is added at 0° C. After 1.5 h, a solution of 4-nitrophenyl carbonochloridate (1.65 g, 8.19 mmol) in THF (10 mL) is added. The mixture is allowed to warm to rt and stir overnight before being quenched with ice water and extracted with EtOAc. The combined organic layers are washed with water and brine before being dried (Na2SO4) and concentrated. The residue is then separated by FCC (20-80% EtOAc/heptane) to give the title compound. 1H NMR (400 MHz, CDCl3) δ ppm 8.54 (s, 1H), 8.34-8.43 (m, 2H), 7.79 (d, J=3.8 Hz, 1H), 7.49-7.57 (m, 2H), 7.41 (d, J=2.3 Hz, 1H), 7.17 (dd, J=9.0, 2.4 Hz, 1H), 6.75 (d, J=3.5 Hz, 1H), 5.31 (s, 1H), 4.65 (s, 2H), 3.80 (t, J=5.8 Hz, 2H), 2.95 (t, J=5.6 Hz, 2H), 1.53 (s, 9H).

reactant | tert-butyl 4-(1H-indol-5-yloxy)-5,6-dihydropyrido[3,4-d]pyrimidine-7 (8H)-carboxylate | N1C=CC2=CC(=CC=C12)OC=1C2=C(N=CN1)CN(CC2)C(=O)OC(C)(C)C | C20H22N4O3
reactant | sodium hydride | 4.09 mmol, 0.164 g | [H-].[Na+]
reactant | 4-nitrophenyl carbonochloridate | 8.19 mmol, 1.65 g | C(OC1=CC=C(C=C1)[N+](=O)[O-])(=O)Cl | C7H4ClNO4
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | tert-Butyl 4-(1-((4-nitrophenoxy)carbonyl)-1H-indol-5-yloxy)-5,6-dihydropyrido[3,4-d]pyrimidine-7 (8H)-carboxylate | [N+](=O)([O-])C1=CC=C(OC(=O)N2C=CC3=CC(=CC=C23)OC=2C3=C(N=CN2)CN(CC3)C(=O)OC(C)(C)C)C=C1 | C27H25N5O7
